US06825200B1
(±)-tert-Butyl 3-methylpiperazine-1-carboxylate
To a solution of 2-methylpiperazine (2.2 g) in tetrahydrofuran (15 ml) was added di-tert-butyl dicarbonate (4.0 g) slowly under ice-cooling, and the mixture was stirred at room temperature for 3.5 hours. Then the reaction mixture was diluted with ethyl acetate (20 ml), washed successively with water and brine, and dried over magnesium sulfate. The solvent was evaporated to give the title compound as a colorless oil. The obtained compound was used for the next step without further purification.

reactant | 2-methylpiperazine | 2.2 g | CC1NCCNC1 | C5H12N2
reactant | di-tert-butyl dicarbonate | 4.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (±)-tert-Butyl 3-methylpiperazine-1-carboxylate | CC1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
